US07230133B2
N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-N′-(3-dimethylcarbamoyl-5-trifluoromethyl-phenyl)-malonamide
A solution of {(2S,3S)-2-[2-(3-dimethylcarbamoyl-5-trifluoromethyl-phenylcarbamoyl)-acetylamino]-3-hydroxy-hex-4-ynyl}-carbamic acid benzyl ester (186 mg, 0.33 mmol) in MeOH (6 mL) was charged with 5% Pd/C, Degussa style (37 mg), stirred under H2 (1 atm) for 12 h at RT, filtered, and concentrated in vacuo. The residue was dissolved in MeOH (6 mL). The resultant solution was charged sequentially with 2,4-dimethylbenzaldehyde (46 mg, 0.33 mmol) and sodium cyanoborohydride (25 mg, 0.4 mmol), stirred for 12 h at RT, quenched with sat. NaHCO3, and extracted twice with EtOAc. The organic extracts were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. Purification of the residue by reverse-phase HPLC provided the title compound as a white powder after lyopholization. MS found: (M+H)+=551.3.

reactant | {(2S,3S)-2-[2-(3-dimethylcarbamoyl-5-trifluoromethyl-phenylcarbamoyl)-acetylamino]-3-hydroxy-hex-4-ynyl}-carbamic acid benzyl ester | 0.33 mmol, 186 mg | C(C1=CC=CC=C1)OC(NC[C@@H]([C@H](C#CC)O)NC(CC(NC1=CC(=CC(=C1)C(F)(F)F)C(N(C)C)=O)=O)=O)=O | C27H29F3N4O6
reactant | 2,4-dimethylbenzaldehyde | 0.33 mmol, 46 mg | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | sodium cyanoborohydride | 0.4 mmol, 25 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 6 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-{(1S,2S)-1-[(2,4-Dimethyl-benzylamino)-methyl]-2-hydroxy-pentyl}-N′-(3-dimethylcarbamoyl-5-trifluoromethyl-phenyl)-malonamide | CC1=C(CNC[C@@H]([C@H](CCC)O)NC(CC(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(N(C)C)=O)=O)C=CC(=C1)C | C28H37F3N4O4
